US07666901B2
To a solution of the (3-dimethylaminopropyl)-ethyl-carbamic acid benzyl ester trifluoroacetate (0.84 g, 2.2 mmol) in ethanol (30 mL) and concentrated hydrochloric acid (0.5 mL, 6 mmol) was added palladium on carbon (10%, 50 mg). The suspension was shaken under 50 psi hydrogen. When the consumption of hydrogen was observed to have ceased, the mixture was filtered through a pad of diatomaceous earth and then concentrated under reduced pressure to give N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride (400 mg, 89%) as a white solid. MS (ES+): m/z (M+H)=131.3 To a suspension of the N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride (0.26 g, 1.3 mmol) in dichloromethane (5 mL) was added triethylamine (0.51 mL, 3.9 mmol). After stirring for 10 minutes, the mixture was treated with 17-hydroxywortmannin (0.28 g, 0.65 mmol). After stirring overnight at room temperature, the mixture was concentrated under reduced pressure and then purified by reverse-phase HPLC (employing a gradient elution of 5% acetonitrile/95% water to 95% acetonitrile over 45 minutes). The title compound was obtained as a rust-colored solid (11.6 mg). MS (ES+): m/z (M+H)=561.4.

reactant | (3-dimethylaminopropyl)-ethyl-carbamic acid benzyl ester trifluoroacetate | 2.2 mmol, 0.84 g | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(N(CC)CCCN(C)C)=O
reactant | hydrochloric acid | 6 mmol, 0.5 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | N′-ethyl-N,N-dimethylpropane-1,3-diamine dihydrochloride | 400 mg, 89% | Cl.Cl.C(C)NCCCN(C)C | InChI=1S/C7H18N2.2ClH/c1-4-8-6-5-7-9(2)3;;/h8H,4-7H2,1-3H3;2*1H
